US07314849B2
A solution of 4-amino-3-chloro-6-iodopyridine-2-carboxylic acid, methyl ester (1.1 g, 3.0 mmol), 4-bromo-2-fluoro-3-methoxyphenyl boronic acid (1.3 g, 4.5 mmol) and cesium fluoride (0.60 g, 4.0 mmole) in dimethoxyethane (2 mL) and water (2 mL) was de-aerated with a stream of nitrogen for 15 minuets before adding dichlorobis(triphenylphosphine) palladium (0.25 g, 0.4 mmol) and then heated to 85° C. for 2 hours. The reaction mixture was diluted with water (15 mL) and extracted with ethyl acetate (2×15 mL). The combined extracts were washed with brine, dried (sodium sulfate) and concentrated. The residue was purified by chromatography (33% ethyl acetate in hexanes) to give 4-acetylamino-6-(4-bromo-2-fluoro-3-methoxyphenyl)-3-chloropyridine-2-carboxylic acid, methyl ester (1.2 g, 2.8 mmol): mp 164-165° C.

reactant | 4-amino-3-chloro-6-iodopyridine-2-carboxylic acid, methyl ester | 3.0 mmol, 1.1 g | NC1=C(C(=NC(=C1)I)C(=O)OC)Cl | C7H6ClIN2O2
reactant | 4-bromo-2-fluoro-3-methoxyphenyl boronic acid | 4.5 mmol, 1.3 g | BrC1=C(C(=C(C=C1)B(O)O)F)OC | C7H7BBrFO3
reactant | cesium fluoride | 4.0 mmole, 0.60 g | [F-].[Cs+]
reactant | dimethoxyethane | 2 mL | C(OC)COC | C4H10O2
solvent | water | 2 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 4-acetylamino-6-(4-bromo-2-fluoro-3-methoxyphenyl)-3-chloropyridine-2-carboxylic acid, methyl ester | 2.8 mmol, 1.2 g | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Br)OC)F)C(=O)OC)Cl | C16H13BrClFN2O4
